US08030489B2
A mixture of ethyl 5-hydroxymethyl-1,4-dimethyl-1H-pyrrole-2-carboxylate (2.2 g), ethanol (15 ml), and palladium-carbon (2.2 g) was stirred at room temperature for 2 hours under a hydrogen atmosphere of 3 atmospheres. The insolubles of the reaction mixture were separated by filtration through Celite and the filtrate was concentrated to about 10 ml under reduced pressure. THF (10 ml) was added to the residue, and a 1 M aqueous sodium hydroxide solution (20 ml) was further added at room temperature, followed by stirring at room temperature for 13 days. The reaction mixture was washed with diethyl ether, and 1 M hydrochloric acid (20 ml) was added to the aqueous layer under ice-cooling. The solid precipitated was collected by filtration and washed with water to obtain 1,4,5-trimethyl-1H-pyrrole-2-carboxylic acid (0.79 g).

reactant | ethyl 5-hydroxymethyl-1,4-dimethyl-1H-pyrrole-2-carboxylate | 2.2 g | OCC1=C(C=C(N1C)C(=O)OCC)C | C10H15NO3
catalyst | palladium-carbon | 2.2 g | [C].[Pd]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,4,5-trimethyl-1H-pyrrole-2-carboxylic acid | 0.79 g | CN1C(=CC(=C1C)C)C(=O)O | C8H11NO2
